Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
 Open reduction internal trimalleolar fracture pattern
with out fixation of the posterior malleolus, examination under
anesthesia with manually applied rotational stress under
fluoroscopy, fixation of the syndesmosis.
 
History of Present Illness:
___ with PMH of multiple myeloma, renal  
cell carcinoma s/p left nephrectomy, portal vein thrombosis (on  

Lovenox), hypertension, alcohol use disorder, NASH c/b HCC s/p  
ablation x2, insulin-dependent diabetes, postural hypotension,  
and peripheral neuropathy who initially presented for a syncopal 

episode and fall from a chair c/b left distal fibula and
posterior malleolus fractures.  
  
He was in his usual state of health until last ___ when he
attempted to stand up from a seated position and suddenly felt
lightheaded and dizzy (described as a "swoon"). He was unable to
catch himself against any furniture and so fell to the ground,
striking his head and injuring his left foot and leg in the
process. The fall was un-witnessed though he denies any loss of
consciousness. These episodes are a frequent occurrence for him
and can happen multiple several times a day, though almost never
to this degree as he is usually able to compensate by leaning
against something. He has been experiencing these episodes since
staring his MM medications.  

He denied any tongue biting, incontinence, or history of seizure 


activity. These episodes typically occur with standing up but 
are

not associated with motions of the head or neck. He denied any  
recent illnesses, though does note feeling thirsty and 
dehydrated

over the past several days. He has not had any nausea, vomiting, 


or frequent diarrhea. He denied any chest pain or palpitations  
with the event.  

He presented to ___ ED, where he was found to be hypotension
with SBP in the ___. He received 2L NS and his BP improved. He
was found to have traumatic fracture to the distal fibula
(displaced) and posterior malleolus (nondisplaced). He was seen
by ortho who performed closed reduction and splinting of his 
LLE.
CT head and C spine showed no evidence of fracture. 

Patient was transferred to medicine for syncope workup and 
dispo.
He was recently admitted to oncology from ___ for
neuropathic pain.

Upon arrival to the medicine floor, the patient was alert,
pleasant, in NAD. He states that he has fallen twice so far, and
another 3 times he almost fell but was able to catch himself. He
states these episodes started after his ___ cycle of
chemotherapy. Most of them occur ___ mins after he stands up 
from
a seated position. He feels lightheaded prior to the fall. When
questioned, he also states that his hands and feet sometimes 
feel
"wooden" and he sometimes finds that his feet get tangled in
carpets or blankets. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY: Reviewed. Notable for:
- ___ s/p left nephrectomy on ___ 
- ___ cirrhosis with HCC s/p RFA on ___ and ___
- Multiple Myeloma s/p 3 cycles Bortezomib and dex ___, and ___ 

PAST MEDICAL HISTORY:  
- Multiple myeloma, as above
- Hypertension (on valsartan, transitioning to losartan d/t
recall)
- Type 2 diabetes on insulin
- ___ cirrhosis with HCC as above; complicated by 
portal/splenic
vein thrombosis
- CKD (s/p nephrectomy for RCC)
- Depression
- Alcohol use disorder 

 
Family History:
FAMILY HISTORY:  
PGM type 2 dm 
2 sisters living in ___ - no dm 
 
Physical Exam:
Admission Physical Exam:
Vitals:HR:91, BP:152/47,RR:15, sats. 96% on RA
GEN: A&O, NAD
HEENT:Pupils equala and reactive. No blood per os or nares. No
head laceration or obvious hematoma
CV: RRR,normal S1 and S2, no chest wall tenderness or
instability. 2+ radial
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, btl lower abdominal chronic ecchymosis 


Pelvis: Stable, nontender 
Extremities: LLE well perfused and splinted, tender with
manipulation
Spine:No cervical tenderness, no T-S spine tenderness or step
offs 

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 945)
    Temp: 98.0 (Tm 98.6), BP: 101/69 (101-201/69-108), HR: 133
(86-139), RR: 18 (___), O2 sat: 98% (96-99), O2 delivery: Ra   


GENERAL: NAD, afebrile
CV: rrr, ___ murmur at upper sternal borders, no g/r
PULM: CTAB, no rhonchi, no rales
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: WWP, L foot splinted and wrapped 
Neuro: no tenderness on right temple. PERRLA, EOMI without pain,
CN II-VII intact.
 
Pertinent Results:
ADMISSION LABS

___ 02:45AM BLOOD WBC-7.1 RBC-3.65* Hgb-12.5* Hct-36.0* 
MCV-99* MCH-34.2* MCHC-34.7 RDW-13.8 RDWSD-50.0* Plt ___
___ 02:45AM BLOOD Neuts-74.1* Lymphs-13.5* Monos-11.5 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.22 AbsLymp-0.95* 
AbsMono-0.81* AbsEos-0.01* AbsBaso-0.03
___ 02:45AM BLOOD ___ PTT-26.7 ___
___ 02:45AM BLOOD Glucose-100 UreaN-26* Creat-3.9*# Na-139 
K-5.2 Cl-98 HCO3-16* AnGap-25*
___ 08:35AM BLOOD Calcium-9.3 Phos-2.0* Mg-1.4*
___ 08:35AM BLOOD ALT-39 AST-75* AlkPhos-112 TotBili-1.4
___ 02:45AM BLOOD Ethanol-93*
___ 05:52AM BLOOD Lactate-2.8*
___ 05:52AM BLOOD ___ pO2-182* pCO2-40 pH-7.37 
calTCO2-24 Base XS--1

DISCHARGE LABS

OTHER PERTINENT LABS

___ 07:15AM BLOOD Cortsol-4.9
___ 07:50AM BLOOD Cortsol-9.7
___ 11:20AM BLOOD Cortsol-23.9*
___ 07:16AM BLOOD WBC-3.6* RBC-3.65* Hgb-12.2* Hct-35.6* 
MCV-98 MCH-33.4* MCHC-34.3 RDW-13.3 RDWSD-47.5* Plt ___
___ 07:16AM BLOOD Glucose-154* UreaN-10 Creat-1.3* Na-141 
K-4.5 Cl-101 HCO3-25 AnGap-15
___ 07:16AM BLOOD Calcium-9.7 Phos-3.7 Mg-1.5*

IMAGING/STUDIES

ANKLE (AP, MORTISE & LA) ___:
FINDINGS:  
Re-demonstrated distal fibular fracture plate with 2 syndesmotic 
screws 
affixing spiral fracture of the fibula.  Alignment is anatomic.  
Minimally 
displaced posterior malleolar fracture.  Fragments at the 
inferior aspect of the medial malleolus are well corticated and 
appear old. 
Moderate Achilles and plantar calcaneal spurs. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH of multiple myeloma, 
renal cell carcinoma s/p left nephrectomy, provoked portal vein 
thrombosis (on Lovenox), alcohol use disorder, cirrhosis c/b HCC 
s/p ablation x2, DMII, postural hypotension and peripheral 
neuropathy who presented with fall resulting in left distal 
fibula and posterior malleolus fractures, s/p ORIF and 
transferred to the medicine service for further workup of his 
syncopal episodes. Found to have orthostatic hypotension likely 
from velcade toxicity and autonomic dysfunction from T2DM. After 
autonomic testing with neurology, was started on midodrine 
during the day for orthostasis and captopril at night for supine 
hypertension, with improvement in symptoms prior to discharge.

#L fibular fracture
Patient presented to ___ following a fall from chair. He fell 
from his chair, without loss of consciousness, unwitnessed, 
hitting head and chin on the table while also suffering a 
traumatic fracture to his distal fibula and posterior malleolus. 
On ___ he had an open reduction internal trimalleolar fracture 
pattern with out fixation of the posterior malleolus, 
examination under anesthesia with manually applied rotational 
stress under fluoroscopy, fixation of the syndesmosis. 
Postoperatively recovered well, Lovenox (___) held and 
restarted postoperatively. Had short cast placed on ___ with 
plan for follow-up with orthopedics in 4 weeks. 

# Dysautonomia 
# Postural hypotension
# Supine hypertension and orthostatic hypotension - Patient with 
significant orthostatic hypotension that likely led to fall and 
fracture per above. During hospitalization consistently had SBP 
ranging from 160-200s with significant orthostasis on standing 
with SBP drops by 80mmHg on standing initially with symptoms 
including lightheadedness. Neurology autonomics was consulted 
and given temporal association of new orthostatic hypotension 
after velcade treatment previously, strong clinical suspicion 
that his postural hypotension was secondary to velcade with a 
component of T2DM dysautonomia. He underwent autonomics testing 
with neurology, was started on midodrine 2.5mg TID. Plan moving 
forward is for patient to receive midodrine 2.5mg at 8AM, 12PM 
and 4PM if patient is planning on standing. If he remains 
supine, no need to give midodrine. To treat his supine 
hypertension, patient was prescribed captopril 2.5mg QHS at 
___. He did not symptomatically improve while trialing 
labetalol during hospitalization, however did have improvement 
in his symptoms with midodrine and captopril. It is anticipated 
patient will continue to have SBP drops while standing however 
his symptoms while assuming a standing position resolved prior 
to discharge. Of note patient was also previously on prednisone 
10mg daily due to prior concern for adrenal insufficiency, 
however has not been taking recently. Repeat cosyntropin 
stimulation test here showed no evidence of adrenal 
insufficiency. 

#Headache 
Developed L temporal headache with lacrimation ___ 
initially with concern for cluster headache. Without improvement 
with oxygen therapy, resolved with Compazine. It is possible 
headache is likely secondary to symptomatic supine HTN as 
patient noted resolution of HA with head elevation. No focal 
neurological findings on exam. Patient advised to sit up or 
elevate head of bed if HA presents and given captopril as above.

# Sensory polyneuropathy
# Neuropathic Pain
Continued home gabapentin and duloxetine

#Hypomagnesemia - up-titrated home mag

CHRONIC ISSUES:
===============
#Alcohol Use Disorder- Social work consulted. Given thiamine, 
multivitamin

# ___ on CKD - Avoided nephrotoxic medications. Renally dosed 
medications

# Insulin-dependent diabetes - Continued glargine and Humalog SS

# Anemia - Multivitamin for B12/Folate

# Provoked Portal and Splenic Vein Thrombosis - Continued home 
enoxaparin 

#Multiple myeloma - Mgmt per outpatient oncologist ___
# HCC:  s/p  repeat RFA, patient of Dr. ___
# RCC:  s/p left nephrectomy revealing T1a Nx RCC 

Transitional issues:
==================
Medication changes:
-Started midodrine 2.5mg TID (at 0800, 1200, 1600)
-Started captopril 6.25mg q24hr (at ___
–Stopped atenolol 50 mg daily
–Held losartan 100 mg daily
–Held Lasix 40 mg BID 
-Home magnesium increased from 800mg PO BID to ___ TID given 
persistent hypomagnasemia
 
[ ] Consider uptitration of midodrine as needed if patient has 
symptomatic orthostatis with lightheadedness
[ ] If persistently severe supine hypertension with SBP >220, 
consider up-titrating captopril at night
[ ] Follow up for LLE fracture and cast removal at outpatient 
ortho appointment in 4 weeks from discharge
[ ] Patient should receive further EtOH counseling as 
outpatient. Please consider referral for addiction services 

CORE MEASURES:  
#HCP/CONTACT: Girlfriend ___ ___
#CODE STATUS: Full code (presumed)
Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Atenolol 50 mg PO DAILY 
3. DULoxetine 30 mg PO BID 
4. econazole 1 % topical BID:PRN 
5. flash glucose scanning reader    miscellaneous QIDWMHS 
6. flash glucose sensor    miscellaneous QIDWMHS 
7. Fluvastatin Sodium 80 mg oral Q24H 
8. FoLIC Acid 1 mg PO DAILY 
9. Furosemide 40 mg PO BID 
10. Gabapentin 600 mg PO BID 
11. insulin glargine 100 unit/mL (3 mL) subcutaneous QPM 
12. insulin glargine 100 unit/mL (3 mL) subcutaneous BREAKFAST 
13. insulin lispro 200 unit/mL (3 mL) subcutaneous TID W/MEALS 
14. insulin lispro 200 unit/mL (3 mL) subcutaneous QPM 
15. Losartan Potassium 100 mg PO DAILY 
16. Omeprazole 20 mg PO Q12H 
17. OxyCODONE (Immediate Release) ___ mg PO Q12H:PRN Pain - 
Moderate 
18. Polyethylene Glycol 17 g PO DAILY 
19. PredniSONE 10 mg PO DAILY 
20. tadalafil 20 mg oral Q12H:PRN 
21. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
22. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN rash 

23. Vitamin D ___ UNIT PO DAILY 
24. Magnesium Oxide 800 mg PO BID 
25. Multivitamins 1 TAB PO DAILY 
26. Thiamine 100 mg PO DAILY 
27. NovoFine Plus (pen needle, diabetic) 32 gauge x ___ 
miscellaneous 5X/DAY 
28. Enoxaparin Sodium 100 mg SC Q24H 

 
Discharge Medications:
1.  Captopril 6.25 mg PO QHS  
2.  Midodrine 2.5 mg PO DAILY 
Please take at least 30 minutes before activity and getting up 
from bed.  
3.  Midodrine 2.5 mg PO DAILY  
4.  Midodrine 2.5 mg PO DAILY  
5.  TraMADol 50 mg PO Q6H:PRN BREAKTHROUGH PAIN 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
6.  Magnesium Oxide 540 mg PO TID  
7.  Omeprazole 20 mg PO DAILY  
8.  OxyCODONE (Immediate Release) 2.5-5 mg PO BID:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
9.  Acyclovir 400 mg PO Q12H  
10.  DULoxetine 30 mg PO BID  
11.  econazole 1 % topical BID:PRN  
12.  Enoxaparin Sodium 100 mg SC Q24H  
13.  flash glucose scanning reader    miscellaneous QIDWMHS  
14.  flash glucose sensor    miscellaneous QIDWMHS  
15.  Fluvastatin Sodium 80 mg oral Q24H  
16.  FoLIC Acid 1 mg PO DAILY  
17.  Gabapentin 600 mg PO BID  
18.  insulin glargine 100 unit/mL (3 mL) subcutaneous QPM  
19.  insulin glargine 100 unit/mL (3 mL) subcutaneous BREAKFAST  

20.  insulin lispro 200 unit/mL (3 mL) subcutaneous TID W/MEALS  

21.  insulin lispro 200 unit/mL (3 mL) subcutaneous QPM  
22.  Multivitamins 1 TAB PO DAILY  
23.  NovoFine Plus (pen needle, diabetic) 32 gauge x ___ 
miscellaneous 5X/DAY  
24.  Polyethylene Glycol 17 g PO DAILY  
25.  tadalafil 20 mg oral Q12H:PRN  
26.  Thiamine 100 mg PO DAILY  
27.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID  
28.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN 
rash  
29.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==============
Syncope
Dysautonomia 
Postural hypotension
Supine hypertension
Sensory polyneuropathy
Neuropathic Pain

Secondary diagnoses:
===============
Alcohol use disorder
Acute kidney injury on chronic kidney disease
Type 2 diabetes on insulin
Anemia
Provoked portal and splenic vein thrombosis
Multiple myeloma
Hepatocellular carcinoma
Renal cell carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: non-weight bearing in the cast until follow-up 
appointment in 4 weeks time.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
-You were admitted to the hospital because you had a fall after 
fainting.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-You are found to have a broken leg bone and required orthopedic 
surgery. 
-After surgery you continued to have low blood pressure with 
standing, which was likely the cause of your fainting.  However 
your blood pressure was occasionally too high when lying down.
–We gave you medications to keep your blood pressure within the 
normal range and control your symptoms

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all your medicines and follow-up with 
your appointments which are listed below.  
- It is normal to feel tired or "washed out" after surgery, and 
this feeling should improve over the first few days to week. 
- Please continue to sleep at an angle to keep your head up at 
night.

We wish you the best!  

Sincerely,  
Your ___ Team  

PLEASE SEE BELOW FOR INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

ACTIVITY AND WEIGHT BEARING:
- Non-weight bearing, left lower extremity, splint at all times
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2)  Add oxycodone as needed for increased pain. Aim to wean 
off this medication in 1 week or sooner.  This is an example on 
how to wean down:
Take 1 tablet every 4 hours as needed x 1 day,
then 1 tablet every 6 hours as needed x 1 day,
then 1 tablet every 8 hours as needed x 2 days, 
then 1 tablet every 12 hours as needed x 1 day,
then 1 tablet every before bedtime as needed x 1 day.  
Then continue with Tylenol for pain.
  3)  Do not stop the Tylenol until you are off of the narcotic 
medication.
  4)  Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone. 
  5)  Narcotic pain relievers can cause constipation, so you 
should drink eight 8oz glasses of water daily and continue 
following the bowel regimen as stated on your medication 
prescription list. These meds (senna, colace, miralax) are over 
the counter and may be obtained at any pharmacy.
  6)  Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
  7)  Please take all medications as prescribed by your 
physicians at discharge.
  8)  Continue all home medications unless specifically 
instructed to stop by your surgeon.
      
ANTICOAGULATION:
- Please take enoxaparin at your scheduled dose daily for 4 
weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.
- Splint must be left on until follow up appointment unless 
otherwise instructed.
- Do NOT get splint wet.

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

 
Followup Instructions:
___